US05026835
Example 9: N4,5'-O-Distearoyl-2'-deoxy-2'-methylidenecytidine
2'-Deoxy-2'-methylidenecytidine, 239 mg, was dissolved in 5 ml of pyridine, 1.7 ml of stearoyl chloride was added portionwise under ice cooling, and the solution was stirred for 15 minutes. After the reaction, the reaction solution was partitioned with chloroform and the chloroform layer was distilled off under reduced pressure. The resulting residue was treated with silica gel chromatography (elution solvent: a mixture solvent of chloroform and methanol) to give the objective compound. m.p. 135°-139° C.

reactant | 2'-Deoxy-2'-methylidenecytidine | C=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C10H13N3O4
reactant | stearoyl chloride | 1.7 ml | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N4,5'-O-Distearoyl-2'-deoxy-2'-methylidenecytidine | C(CCCCCCCCCCCCCCCCC)(=O)NC1=NC(N([C@H]2C([C@H](O)[C@@H](COC(CCCCCCCCCCCCCCCCC)=O)O2)=C)C=C1)=O | C46H81N3O6
